US06248740B1
Production of isopropyl 1-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxylate dihydrochloride
2.72 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.27 g of isopropyl 1-(6-chloroimidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxylate were stirred at 165° C. for 4.5 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated under reduced pressure and dissolved in 5 ml of ethyl acetate; 0.72 ml of a 4 N solution of hydrogen chloride in ethyl acetate was added, followed by concentration again. The residue was crystallized by the addition of ethyl acetate-acetone (2:1), collected by filtration, washed with ethyl acetate and dried to yield 714 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 2.72 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | isopropyl 1-(6-chloroimidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxylate | 1.27 g | ClC=1C=CC=2N(N1)C=C(N2)C2(CC2)C(=O)OC(C)C | C13H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | isopropyl 1-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxylate dihydrochloride | 714 mg | Cl.Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C2(CC2)C(=O)OC(C)C)C2=CC=CC=C2 | InChI=1S/C34H41N5O3.2ClH/c1-25(2)41-33(40)34(18-19-34)29-24-39-31(36-29)15-14-30(37-39)35-20-9-21-38-22-16-28(17-23-38)42-32(26-10-5-3-6-11-26)27-12-7-4-8-13-27;;/h3-8,10-15,24-25,28,32H,9,16-23H2,1-2H3,(H,35,37);2*1H
